US05281747
A solution of 2.16 g (20 mmol) of O-ethyl-P-methyl-phosphonous acid and 4.05 g (40 mmol) of triethylamine in 100 ml of dry tetrahydrofuran is stirred under an atmosphere of argon at 25°. To this solution are added at 25° 4.35 g (40 mmol) of trimethylsilyl chloride over a period of 10 minutes. A white precipitate is formed. The reaction mixture is stirred at 25° for additional 16 hours. Then, 2.42 g (20 mmol) of 4,4,4-trifluorocrotononitrile, dissolved in 20 ml of dry tetrahydrofuran, are added at 25° over a period of 10 minutes. The reaction mixture is refluxed for 40 hours, cooled to 25°, poured into ice-water and extracted with dichloromethane. The extracts are combined, washed with water, dried over anhydrous sodium sulphate and evaporated under reduced pressure to dryness. The crude product is chromatographed on 200 g of silica gel with trichloromethane as eluent. The product-containing fractions are combined and evaporated to give ethyl P-(3-cyano-1,1,1-trifluoro-prop-2-yl)-P-methyl-phosphinate as an oil.

reactant | O-ethyl-P-methyl-phosphonous acid | 20 mmol, 2.16 g | C(C)OP(O)C | C3H9O2P
reactant | triethylamine | 40 mmol, 4.05 g | C(C)N(CC)CC | C6H15N
reactant | trimethylsilyl chloride | 40 mmol, 4.35 g | C[Si](C)(C)Cl | C3H9ClSi
reactant | 4,4,4-trifluorocrotononitrile | 20 mmol, 2.42 g | FC(/C=C/C#N)(F)F | C4H2F3N
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | ethyl P-(3-cyano-1,1,1-trifluoro-prop-2-yl)-P-methyl-phosphinate | C(#N)CC(C(F)(F)F)P(OCC)(=O)C | C7H11F3NO2P
